US05532245
Preparation of 3-(3,4-dioxo-2-ethoxy-cyclobut-1-enylamino)-benzonitrile
3-Aminobenzonitrile (2.06 g, 17.4 mmol) was added to a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (2.97 g, 17.5 mmol) in absolute ethanol (50 mL). The mixture was heated at reflux overnight. The mixture was cooled and the resulting yellow precipitate was collected by vacuum filtration. Yield: 3.40 g (81%): 1H NMR (DMSO-d6): δ 10.95 (s, 1H), 7.75-7.40 (m, 4H), 4.73 (q, 2H), 1.39 (t, 3H).

reactant | 3-Aminobenzonitrile | 17.4 mmol, 2.06 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 17.5 mmol, 2.97 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(3,4-dioxo-2-ethoxy-cyclobut-1-enylamino)-benzonitrile | O=C1C(=C(C1=O)NC=1C=C(C#N)C=CC1)OCC | C13H10N2O3
